US06492416B1
To a stirred solution of 1-{3-bromo4(methylthio)phenyl}-2-phenyl-ethan-1-one (1.54 g) in 50 ml THF, was added 232 mg of 60% oil dispersion of sodium hydride. The mixture was stirred for 1 hour at 0° C., which was followed by dropwise addition of 1.1 ml α-bromoisobutyryl cyanide diluted in 20 ml THF. The reaction mixture was then slowly warmed to room temperature and was stirred overnight. The solvent was removed in vacuo and the resulting residue was extracted with 50 ml water and dichloromethane (30 ml×3). The organic layer was concentrated under reduced pressure and was purified by column chromatography (hexane/ethylacetate=6:1) to yield 1.1 g of 5-{3-bromo-4-(methylthio)phenyl}-2,2-dimethyl-4-phenyl-3(2H)-furanone. NMR: δ1.55 (s, 6H), 2.47 (s, 3H), 6.99 (d, J=8.7 Hz, 1H), 7.32 (m, 5H), 7.48 (dd, J=8.7, 2.1 Hz, 1H), 7.88 (d, J=1.8 Hz, 1H).

reactant | 1-{3-bromo4(methylthio)phenyl}-2-phenyl-ethan-1-one | 1.54 g | BrC=1C=C(C=CC1SC)C(CC1=CC=CC=C1)=O | C15H13BrOS
reactant | sodium hydride | [H-].[Na+]
reactant | α-bromoisobutyryl cyanide | 1.1 ml | BrC(C(=O)C#N)(C)C | C5H6BrNO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-{3-bromo-4-(methylthio)phenyl}-2,2-dimethyl-4-phenyl-3(2H)-furanone | 1.1 g | BrC=1C=C(C=CC1SC)C1=C(C(C(O1)(C)C)=O)C1=CC=CC=C1 | C19H17BrO2S
